US04735952
(B 5) 4-[[7-(Trifluoromethyl)-4-quinolyl]amino]benzoyl chloride hydrochloride (65.20 g) was added slowly to a stirred mixture of 4-[(2-fluorophenyl)sulfonyl]piperidine hydrochloride (47.0 g) and triethylamine (117.2 ml) in dry methylene chloride (1.01 l) at room temperature. The resultant mixture was stirred at the same temperature for 1 hour and under ice cooling for 0.5 hours. The precipitated powder was collected by filtration, washed with a mixture of methylene chloride and water, and suspended in a mixture of chloroform and methanol. Excess methanolic hydrochloric acid was added to the suspension and the resulting solution was concentrated in vacuo to give an oil. The oil was triturated in a mixture of ethyl acetate and ethanol to give powdery 4-[(2-fluorophenyl)sulfonyl]-1-[4-[[7-(trifluoromethyl)-4-quinolyl]amino]benzoyl]piperidine hydrochloride (46.73 g).

reactant | 4-[[7-(Trifluoromethyl)-4-quinolyl]amino]benzoyl chloride hydrochloride | 65.20 g | Cl.FC(C1=CC=C2C(=CC=NC2=C1)NC1=CC=C(C(=O)Cl)C=C1)(F)F
reactant | 4-[(2-fluorophenyl)sulfonyl]piperidine hydrochloride | 47.0 g | Cl.FC1=C(C=CC=C1)S(=O)(=O)C1CCNCC1
reactant | triethylamine | 117.2 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 1.01 l | C(Cl)Cl | CH2Cl2
product | 4-[(2-fluorophenyl)sulfonyl]-1-[4-[[7-(trifluoromethyl)-4-quinolyl]amino]benzoyl]piperidine hydrochloride | 46.73 g | Cl.FC1=C(C=CC=C1)S(=O)(=O)C1CCN(CC1)C(C1=CC=C(C=C1)NC1=CC=NC2=CC(=CC=C12)C(F)(F)F)=O | InChI=1S/C28H23F4N3O3S.ClH/c29-23-3-1-2-4-26(23)39(37,38)21-12-15-35(16-13-21)27(36)18-5-8-20(9-6-18)34-24-11-14-33-25-17-19(28(30,31)32)7-10-22(24)25;/h1-11,14,17,21H,12-13,15-16H2,(H,33,34);1H
